US07863291B2
N-(2,4-Dimethoxybenzyl)-6-methoxyquinoxalin-2-amine (2.8 g, 8.61 mmol) was stirred in TFA (10 mL, 130 mmol) and dichloromethane (10 mL) at ambient temperature for 30 min. The solvents were removed in vacuo. Saturated aq. sodium hydrogen carbonate (200 mL) was added to the red residue, which then precipitated a yellow solid. The mixture was extracted extensively with dichloromethane. The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo to afford 6-methoxyquinoxalin-2-amine (1.50 g, 8.56 mmol, 99% yield). 1H NMR (400 MHz, CDCl3) δ ppm 8.27 (1 H, s), 7.54-7.58 (1 H, m), 7.25-7.29 (2 H, m), 4.71 (2 H, br. s.), 3.90 (3 H, s). MS (LC/MS) R.T.=0.86; [M+H]+=176.23.

reactant | N-(2,4-Dimethoxybenzyl)-6-methoxyquinoxalin-2-amine | 8.61 mmol, 2.8 g | COC1=C(CNC2=NC3=CC=C(C=C3N=C2)OC)C=CC(=C1)OC | C18H19N3O3
reactant | TFA | 130 mmol, 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 6-methoxyquinoxalin-2-amine | 8.56 mmol, 1.50 g, 99% yield | COC=1C=C2N=CC(=NC2=CC1)N | C9H9N3O
